US07323475B2
a) 1-Bromo-4-hydroxy-5-phenyl-isoquinoline-3-carboxylic acid butyl ester
411 mg of 1,4-Dihydroxy-5-phenyl-isoquinoline-3-carboxylic acid butyl ester, from Example D-39c isomer B, was suspended in 15 ml of anhydrous acetonitrile. 2.0 g of phosphorous oxybromide was added and the reaction mixture was heated to reflux for 3.5 h. The reaction mixture was cooled and poured into 75 ml of 0° C. saturated aqueous sodium bicarbonate solution. The mixture was stirred for 5 min and then extracted with 75 ml portions of ethyl acetate three times. The combined organic fractions were washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue (434 mg) was purified by chromatography on silica gel using a gradient of 0 to 25% ethyl acetate in hexanes to elute the product as one major fraction. 480 mg of the desired product was obtained; MS (+): m/z 422.02 (M+23)

reactant | 1,4-Dihydroxy-5-phenyl-isoquinoline-3-carboxylic acid butyl ester | 411 mg | C(CCC)OC(=O)C=1N=C(C2=CC=CC(=C2C1O)C1=CC=CC=C1)O | C20H19NO4
reactant | phosphorous oxybromide | 2.0 g | P(=O)(Br)(Br)Br | Br3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 1-Bromo-4-hydroxy-5-phenyl-isoquinoline-3-carboxylic acid butyl ester | 480 mg | C(CCC)OC(=O)C=1N=C(C2=CC=CC(=C2C1O)C1=CC=CC=C1)Br | C20H18BrNO3
